US09334267B2
2-Fluoro-4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline
Combine 5-bromo-2-fluoro-4-methylaniline (3.1 g, 15.2 mmol), bis(pinacolato)diboron (4.24 g, 16.7 mmol), and potassium acetate (4.47 g, 45.6 mmol) in dioxane (40 mL) and sparge with argon. Add [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II)-dichloromethane complex (0.620 g, 0.760 mmol), sparge again with argon and heat at 100° C. overnight. Filter the reaction mixture and concentrate in vacuo. Purify by silica gel chromatography (0-50% EtOAc/hexanes) to give the title compound (3.24 g, 85% yield). MS (m/z): 252.1 (M+1).

reactant | 5-bromo-2-fluoro-4-methylaniline | 15.2 mmol, 3.1 g | BrC=1C(=CC(=C(N)C1)F)C | C7H7BrFN
reactant | bis(pinacolato)diboron | 16.7 mmol, 4.24 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 45.6 mmol, 4.47 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | 2-Fluoro-4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 3.24 g, 85% yield | FC1=C(N)C=C(C(=C1)C)B1OC(C(O1)(C)C)(C)C | C13H19BFNO2
